US06949579B2
1.9 g of 4-benzyloxyphenylboronic acid, 1.63 g of sodium carbonate in 20 cm3 of distilled water and 500 mg of tetrakis(triphenylphosphine)palladium are added to 1.35 g of N-[5,6-dibromo-1-[[2-(trimethylsilyl)ethoxy]methyl]-1H-indazol-3-yl]butanamide, described in Example 70, in 100 cm3 of dioxane. The mixture is refluxed for 18 hours, the temperature is then allowed to return to room temperature to add 100 cm3 of ethyl acetate and 100 cm3 of water, and the reaction medium is filtered through a sinter funnel packed with Celite. The organic phase is separated out after settling of the phases has taken place, washed with 100 cm of saturated aqueous sodium chloride solution, separated out after settling of the phases has taken place, dried over magnesium sulphate, filtered and concentrated to dryness under reduced pressure (2 kPa; 50° C.). The residue is purified by chromatography under an argon pressure of 50 kPa, on a column of silica gel (particle size 40-60 μm; diameter 4.5 cm), eluting with a cyclohexane/ethyl acetate mixture (70/30 by volume). The fractions containing the expected product are combined, evaporated under reduced pressure (2 kPa; 50° C.) and dried (90 Pa; 50° C.) to give 1.96 g of N-[5,6-bis[4-(phenylmethoxy)phenyl]-1-[[2-(trimethylsilyl)ethoxy]methyl]-1H-indazol-3-yl]butanamide in the form of an orange-coloured oil in a purity of 70%, which product is used without further modification in the following step.

reactant | 4-benzyloxyphenylboronic acid | 1.9 g | C(C1=CC=CC=C1)OC1=CC=C(C=C1)B(O)O | C13H13BO3
reactant | sodium carbonate | 1.63 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | N-[5,6-dibromo-1-[[2-(trimethylsilyl)ethoxy]methyl]-1H-indazol-3-yl]butanamide | 1.35 g | BrC=1C=C2C(=NN(C2=CC1Br)COCC[Si](C)(C)C)NC(CCC)=O | C17H25Br2N3O2Si
reactant | ethyl acetate | 100 cm3 | C(C)(=O)OCC | C4H8O2
solvent | water | 20 cm3 | O | H2O
solvent | dioxane | 100 cm3 | O1CCOCC1 | C4H8O2
catalyst | tetrakis(triphenylphosphine)palladium | 500 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | water | 100 cm3 | O | H2O
product | N-[5,6-bis[4-(phenylmethoxy)phenyl]-1-[[2-(trimethylsilyl)ethoxy]methyl]-1H-indazol-3-yl]butanamide | 1.96 g | C1(=CC=CC=C1)COC1=CC=C(C=C1)C=1C=C2C(=NN(C2=CC1C1=CC=C(C=C1)OCC1=CC=CC=C1)COCC[Si](C)(C)C)NC(CCC)=O | C43H47N3O4Si
